US06635640B2
Pyridinium tribromide (90% (Aldrich), 3.7 g, 10.32 mmol) was added portion-wise over 10 minutes to a suspension of 5-(1H-indol-4-yl)-pyridin-2-ylamine (720 mg, 3.44 mmol) in 2-methyl-2-propanol (25 mL), ethanol (15 mL) and acetic acid (9 mL). The mixture was stirred at room temperature for 2 hours and then acetic acid (36 mL), water (1 mL) and zinc dust (3.2 g, 56.1 mmol) were added. Stirring was continued for 1.5 hours. Residual zinc dust was filtered and washed with methanol. The filtrate was concentrated and the syrupy residue was stirred in water (100 mL) overnight. The solid that formed was filtered, washed with water to remove zinc and pyridine salts and dried under high vacuum to give 750 mg (97%) of 4-(6-amino-pyridin-3-yl)-1,3-dihydroindol-2-one as a light brown solid.

reactant | Pyridinium tribromide | 10.32 mmol, 3.7 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 5-(1H-indol-4-yl)-pyridin-2-ylamine | 3.44 mmol, 720 mg | N1C=CC2=C(C=CC=C12)C=1C=CC(=NC1)N | C13H11N3
reactant | water | 1 mL | O | H2O
solvent | 2-methyl-2-propanol | 25 mL | CC(C)(C)O | C4H10O
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | acetic acid | 9 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 56.1 mmol, 3.2 g | [Zn] | Zn
solvent | acetic acid | 36 mL | C(C)(=O)O | C2H4O2
product | 4-(6-amino-pyridin-3-yl)-1,3-dihydroindol-2-one | 750 mg, 97% | NC1=CC=C(C=N1)C1=C2CC(NC2=CC=C1)=O | C13H11N3O
